US08877782B2
3-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester
As described for example 34, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) was converted, using (+/−)-3-amino-1-N-Boc-piperidine instead of 1-methylpiperidin-4-amine, to the title compound (96 mg, 61%) which was obtained as a white foam. MS: m/e=493.3 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | (+/−)-3-amino-1-N-Boc-piperidine | NC1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
product | 3-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 96 mg, 61% | C(C)(C)(C)OC(=O)N1CC(CCC1)NC(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C27H32N4O5
